US05688803
7-Chloro-4-hydroxy-2,3-dihydro-1H-pyrazolo[4,3-c]quinolin-3-one
3.1 g (0.011 mol) of ethyl 5-(2-amino-4-chloro-phenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate were dissolved in 30 ml of dimethylformamide and boiled under reflux for 2 hrs. The mixture was concentrated, the residue was suspended in 150 ml of methanol at reflux, cooled, suction filtered and dried in a vacuum. Yield: 1.1 g (42%) of 7-chloro-4-hydroxy-2,3-dihydro-1H-pyrazolo[4,3-c]quinolin-3-one as brownish crystals; m.p. >350° C.

reactant | ethyl 5-(2-amino-4-chloro-phenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 0.011 mol, 3.1 g | NC1=C(C=CC(=C1)Cl)C1=C(C(NN1)=O)C(=O)OCC | C12H12ClN3O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-4-hydroxy-2,3-dihydro-1H-pyrazolo[4,3-c]quinolin-3-one | ClC=1C=CC=2C3=C(C(=NC2C1)O)C(NN3)=O | C10H6ClN3O2
